US05216167
2-Ethoxy-4-[N-(α-n-propoxycarbonyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoic acid
Prepared analogously to Example 68 by catalytic hydrogenation of benzyl 2-ethoxy-4-[N-(α-n-propoxycarbonyl-2-piperidino-benzyl)-aminocarbonyl methyl]-benzoate in n-propanol.

reactant | benzyl 2-ethoxy-4-[N-(α-n-propoxycarbonyl-2-piperidino-benzyl)-aminocarbonyl methyl]-benzoate | C(C)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C(=O)OCCC | C34H40N2O6
solvent | n-propanol | C(CC)O | C3H8O
product | 2-Ethoxy-4-[N-(α-n-propoxycarbonyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoic acid | C(C)OC1=C(C(=O)O)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C(=O)OCCC | C27H34N2O6
